Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15],4.4046431763400005
[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],1.55415653795
[H:7].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]\[C:11]([H:12])([H:13])[H:14],-4.17184876913
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[O:11][H:12].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-2.96526352819
[H:4].[O:1][O:2][C:3][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-5.060537121319999
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.79629159777
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]#[C:7][C:8]([H:9])[H:10]>>[C:2]#[C:6][C:7][C:8]([H:9])[H:10].[H:1][C:5]([H:3])=[C:4],5.771893232409999
[O:1]=[C:2]=[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]1[C:3][O:4][C:5]1[C:6]([H:7])([H:8])[H:9],-0.7328726921109999
[H:1][C:2]([H:3])[H:4].[O:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[H:10],-2.89688860288
[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.14715795129
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[O:1],5.755629240759999
[H:1][O:2][C:3]#[C:4][C:5](=[O:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]=[C:4]=[C:5]1[O:6][C:7]1([H:8])[H:9],1.1037714536
[H:10].[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.3224704717200004
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:3],4.9898645017000005
[H:1][C:2][C:10]([C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9])([H:11])[H:12]>>[H:1][C:2]1=[C:3]([O:4][C:5][C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[H:12],-5.03982472903
[C:1]#[C:2][C@@:3]([H:4])([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([O:5][H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:4],1.12083234875
[H:1][C:2]1[O:3][C:4][O:5][C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1]/[C:2]([O:3][C:4]=[O:5])=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11],-1.12123979408
[C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-5.78675957421
[H:1][C:2]/[C:3]([H:4])=[C:5](/[C:6]#[C:7][H:8])[O:9][H:10]>>[C:5]([C:6]#[C:7][H:8])[O:9][H:10].[H:1][C:2]#[C:3][H:4],0.9983758339700002
[H:1][C:2]#[C:3][O:4][C:5]#[C:6][H:7]>>[C:2]#[C:3][O:4][C:5]#[C:6][H:7].[H:1],5.7594306236
[H:1][O:2][C:3]([O:4][C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3](=[O:4])[C:10]([H:11])[H:12],2.88833449006
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.28851973836
[C:6]=[C:7]([H:8])[H:9].[H:1][O:2][C@@:3]([H:4])([O:5])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.45589017192
[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-3.3849376541900003
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4],5.1850942636
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][O:3][C:4]#[C:6][C:7]([H:8])([H:9])[H:10].[H:5],2.58427268581
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],1.50892908593
[C:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:1]>>[O:1][C:2]#[C:3][C:4][C:5]([H:6])=[C:7]([H:8])[H:9],-7.35061438518
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4][H:5],4.10811758747
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])([H:4])[C:5]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.53877239165
